US07196104B2
Preparation AW: 2-(4-Aminosulfonylphenyl)thiazole-4-carboxylic acid
In an oven-dried, 100-mL, round-bottomed flask was placed ethyl 2-(4-aminosulfonylphenyl)thiazole-4-carboxylate (1300 mg, 4.2 mmol), LiOH monohydrate (350 mg, 8.3 mmol) in MeOH (40 mL) and H2O (4 mL). The solution was heated to 75° C. for 3 h, cooled to RT, and concentrated. The resulted yellow solid was dissolved in H2O (10 mL), extracted with EtOAc (1×15 mL). The aqueous layer was acidified with 2N aqueous HCl (4.15 mL). The precipitate was filtered, and washed with H2O (10 mL) to afford the title compound as a light-yellow solid. MS m/z: 285 (M+H).

reactant | ethyl 2-(4-aminosulfonylphenyl)thiazole-4-carboxylate | 4.2 mmol, 1300 mg | NS(=O)(=O)C1=CC=C(C=C1)C=1SC=C(N1)C(=O)OCC | C12H12N2O4S2
solvent | MeOH | 40 mL | CO | CH4O
solvent | H2O | 4 mL | O | H2O
product | 2-(4-Aminosulfonylphenyl)thiazole-4-carboxylic acid | NS(=O)(=O)C1=CC=C(C=C1)C=1SC=C(N1)C(=O)O | C10H8N2O4S2
